US07893099B2
(1S,3S) and (1R,3R)-3-(2-Chloro-4-morpholin-4-yl-benzenesulfonyl)-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide
The title compound was synthesized in analogy to Example 80, from Rac-(1S,35)-3-(2-chloro-4-fluoro-benzenesulfonyl)-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide and morpholine to afford the desired product as a light yellow oil. MS (EI): 438.2 (M+H)+.

reactant | Rac-(1S,35)-3-(2-chloro-4-fluoro-benzenesulfonyl)-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide | C(#N)C1(CC1)NC(=O)C1CC(CC1)S(=O)(=O)C1=C(C=C(C=C1)F)Cl | C16H16ClFN2O3S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | (1R,3R)-3-(2-Chloro-4-morpholin-4-yl-benzenesulfonyl)-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide | C(#N)C1(CC1)NC(=O)[C@H]1C[C@@H](CC1)S(=O)(=O)C1=C(C=C(C=C1)N1CCOCC1)Cl | C20H24ClN3O4S
